US07582761B2
(a) 4-Hydroxy-4-phenylpiperidine-1-carboxylic acid tert-butyl ester
A solution of 4-hydroxy-4-phenylpiperidine (5.42 g, 30.5 mmol, Aldrich) and di-tert-butyl dicarbonate (6.67 g, 30.5 mmol, Aldrich) in CH2Cl2 (200 mL) was stirred at room temperature for 16 h. The solvent was removed in vacuo and the residue was suspended in 2% EtOAc/hexane solution (50 mL), filtered and dried in the air to give the title compound as a white solid. MS (ESI, pos. ion) m/z: 278 (M+1).

reactant | 4-hydroxy-4-phenylpiperidine | 30.5 mmol, 5.42 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | di-tert-butyl dicarbonate | 30.5 mmol, 6.67 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-Hydroxy-4-phenylpiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)O | C16H23NO3
